US04301280
p-Nitrobenzyl α-(3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl)-α-(1-morpholinoethylidene)acetate
To a solution of diphenyl 1-(3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl)-1-(p-nitrobenzyloxycarbonyl)-prop-1-en-2-yl phosphate (6.86 g) in acetonitrile (50 ml) at 0°-5° C. was added morpholine (1.83 ml) dropwise and the reaction mixture stirred at this temperature for 2 hours. Water (50 ml) was added and the mixture was extracted with ethyl acetate (40 ml). The organic layer was separated, washed with water (30 ml) and saturated sodium chloride solution (30 ml), dried with magnesium sulphate, filtered and evaporated to give the title compound as a yellow foam in almost quantitative yield. The product obtained was a mixture of geometric isomers (ca. 1:1.4) about the enamine double bond and was identical to that produced in Example 6.

reactant | diphenyl 1-(3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl)-1-(p-nitrobenzyloxycarbonyl)-prop-1-en-2-yl phosphate | 6.86 g | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC(=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C2SC(=NC2C1=O)CC1=CC=CC=C1)C | C34H28N3O9PS
reactant | morpholine | 1.83 ml | N1CCOCC1 | C4H9NO
reactant | Water | 50 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | p-Nitrobenzyl α-(3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl)-α-(1-morpholinoethylidene)acetate | quantitative yield | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)N1CCOCC1)=O | C26H26N4O6S
